US06262040B1
3-[(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid
A mixture of 330 mg (0.923 mmol, 1.0 equiv) 3-[(1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid ethyl ester in 10 mL ethanol and 4 mL 1N NaOH was heated to reflux for 1 h. After cooling to room temperature, the reaction mixture was concentrated, diluted with 75 mL H2O, acidified to pH 1, and extracted 3×35 mL ethyl acetate. The organic extracts were combined, washed 1×25 mL H2O, 1×25 mL brine, and dried over Na2SO4. Filtration, concentration of filtrate on a rotary evaporator and drying at high vacuum, room temperature gave 297 mg (98%) of white solid: mp 151-153° C.; Anal. calcd for C18H23N3O3: C, 65.63; H, 7.04; N, 12.76. Found: C, 65.75; H, 7.12; N, 12.91.

reactant | 3-[(1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid ethyl ester | 0.923 mmol, 330 mg, 1.0 equiv | C(C)OC(CCNC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC)=O | C20H27N3O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | NaOH | 1N, 4 mL | [OH-].[Na+]
product | 3-[(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid | 297 mg, 98% | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)NCCC(=O)O)CC | C18H23N3O3
